US08614206B2
A solution of 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol (502 mg, 1.78 mmol) (first eluting peak on chiral separation) in THF/water (15 mL/3 mL) was treated with triphenylphosphine (476 mg, 1.78 mmol) and the reaction mixture was heated at 60° C. for 5 hr. EtOAc (100 mL) was added and the mixture was washed with saturated aqueous NaHCO3 solution (20 mL). The aqueous layer was extracted with EtOAc (50 mL) and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give an oil. To a solution of this oil in dry DCM (20 mL) at 0° C. was added DIPEA (0.85 mL, 4.88 mmol) and trifluoroacetic anhydride (0.29 mL, 2.05 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 4 hr. Water (20 mL) was added and the mixture extracted with DCM (100 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0 to 100% EtOAc/heptane) gave 2,2,2-trifluoro-N-(5-hydroxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)acetamide as a yellow oil (626 mg, 88%). A solution of this oil (554 mg, 1.57 mmol) in MeOH (20 mL) was treated with ammonium formate (1002 mg, 15.7 mmol) and 10% palladium on carbon (50 mg). The mixture was heated at 65° C. for 1 hr. After cooling to room temperature the catalyst was filtered off and the filtrate concentrated under reduced pressure. The residue was partitioned between saturated aqueous NaHCO3 solution (20 mL) and DCM (50 mL). The aqueous layer was extracted with DCM (3×50 mL) and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give N-(1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-hydroxyazepan-4-yl)-2,2,2-trifluoroacetamide as an orange form.

reactant | 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol | 1.78 mmol, 502 mg | N(=[N+]=[N-])C1C(CCN(CC1)C1=C(C=NN1C)[N+](=O)[O-])O | C10H15N7O3
reactant | triphenylphosphine | 1.78 mmol, 476 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIPEA | 4.88 mmol, 0.85 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 2.05 mmol, 0.29 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF water | 15 mL | C1CCOC1.O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2,2,2-trifluoro-N-(5-hydroxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)acetamide | 626 mg, 88% | FC(C(=O)NC1CCN(CCC1O)C1=C(C=NN1C)[N+](=O)[O-])(F)F | C12H16F3N5O4
